US08084620B2
Step 3 A solution of (R)-ethyl 5-(3-(benzyloxycarbonylamino)piperidin-1-yl)-8-cyano-9H-carbazole-2-carboxylate (0.67 g, 1.349 mmol) and potassium hydroxide (0.379 g, 6.75 mmol) in 10:1 ethanol-water (33 mL) was heated at 85° C. for 2 h. The mixture was cooled to rt and the precipitate was collected by filtration, washed with ethanol and dried to afford (R)-5-(3-(benzyloxycarbonylamino)piperidin-1-yl)-8-cyano-9H-carbazole-2-carboxylic acid as a yellow solid (130 mg, 21%). Mass spectrum m/z 469.1 (M+H)+. (R)-5-(3-aminopiperidin-1-yl)-8-cyano-9H-carbazole-2-carboxylic acid was also isolated from filtrates (150 mg, 33%). Mass spectrum m/z 335.2 (M+H)+.

reactant | (R)-ethyl 5-(3-(benzyloxycarbonylamino)piperidin-1-yl)-8-cyano-9H-carbazole-2-carboxylate | 1.349 mmol, 0.67 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1CN(CCC1)C1=C2C=3C=CC(=CC3NC2=C(C=C1)C#N)C(=O)OCC | C29H28N4O4
reactant | potassium hydroxide | 6.75 mmol, 0.379 g | [OH-].[K+]
solvent | ethanol water | 33 mL | C(C)O.O
product | (R)-5-(3-(benzyloxycarbonylamino)piperidin-1-yl)-8-cyano-9H-carbazole-2-carboxylic acid | 130 mg, 21% | C(C1=CC=CC=C1)OC(=O)N[C@H]1CN(CCC1)C1=C2C=3C=CC(=CC3NC2=C(C=C1)C#N)C(=O)O | C27H24N4O4
